US07777047B2
ethyl 7-amino-5-(2-methoxyethoxy)-1H-indole-2-carboxylate
A mixture of ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylate (2.30 g), 10% palladium carbon (50% containing water, 500 mg) and tetrahydrofuran (100 mL) was subjected to catalytic reduction at room temperature under hydrogen atmosphere at normal pressure. The catalyst was removed by filtration, and the filtrate was concentrated. The residue was washed with hexane to give the title compound (2.07 g, yield 99%) as pale-brown crystals. The crystals were recrystallized from ethyl acetate-hexane to give pale-brown prism crystals. melting point 162-163° C.

reactant | ethyl 5-(2-methoxyethoxy)-7-nitro-1H-indole-2-carboxylate | 2.30 g | COCCOC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)OCC | C14H16N2O6
catalyst | palladium carbon | 500 mg | [C].[Pd]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | ethyl 7-amino-5-(2-methoxyethoxy)-1H-indole-2-carboxylate | 2.07 g, yield 99% | NC=1C=C(C=C2C=C(NC12)C(=O)OCC)OCCOC | C14H18N2O4
